US06329405B1
(109a) N-[(4-Methoxyphenyl)-(3-nitrophenyl)methyl]-N-(1-methyl-1-phenylethyl)amine
2.57 g of 4-methoxyphenyl 3-nitrophenyl ketone, 1.35 g of cumyl amine and 1.35 g of triethylamine were dissolved in 50 ml of dichloromethane, and then 30 ml of a solution of 1.65 ml of titanium tetrachloride in dichloromethane was added dropwise whilst ice cooling. The reaction mixture was stirred at room temperature for 2 hours and was then heated under reflux for 3 hours. The reaction mixture was allowed to cool, after which it was diluted with 150 ml of ethyl acetate. The insoluble matter was then filtered off. The filtrate was washed with a saturated solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. Following a similar reaction, separation and purification procedure to that described in Example (1a), the resulting brown oil, 100 ml of ethanol 2.51 g of sodium cyanoborohydride and 2.58 ml of acetic acid were reacted, to obtain 1.43 g of the title compound as a yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | 2.57 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | cumyl amine | 1.35 g | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | triethylamine | 1.35 g | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | titanium tetrachloride | 1.65 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 2.58 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml, 2.51 g | C(C)O | C2H6O
product | N-[(4-Methoxyphenyl)-(3-nitrophenyl)methyl]-N-(1-methyl-1-phenylethyl)amine | 1.43 g | COC1=CC=C(C=C1)C(NC(C)(C1=CC=CC=C1)C)C1=CC(=CC=C1)[N+](=O)[O-] | C23H24N2O3
